US04673746
To a suspension of 0.9 g lithium aluminum hydride (98%) in 100 ml anhydrous ether is added a solution of 10 g ethyl-2-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetate of Example 1 d in 200 ml ether containing sufficient tetrahydrofuran to effect solution. The reaction mixture is stirred for two hours at room temperature and one hour at reflux. To the reaction mixture is added 0.9 ml H2O, 0.9 ml 15% NaOH and 2.7 ml H2O. The stirred suspension is filtered and the filtrate is concentrated to afford 2-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}ethanol, mp 112° C.

reactant | lithium aluminum hydride | 0.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl-2-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetate | 10 g | C(C)OC(COC1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1)Cl)=O | C17H13ClFNO4
reactant | H2O | 0.9 ml | O | H2O
reactant | NaOH | 0.9 ml | [OH-].[Na+]
reactant | H2O | 2.7 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}ethanol | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCCO | C15H11ClFNO3
